US07834039B2
To 3-methylisonicotinic acid (100 mg, 0.729 mmol) suspended in DCM (2.5 mL) was added thionyl chloride (260 mg, 2.188 mmol). The reaction mixture was stirred at room temperature for about 3 hours. The solvent was removed under reduced pressure and the residue was dried under high vacuum for 1 hour to give 3-methyl-isonicotinoyl chloride.

reactant | 3-methylisonicotinic acid | 0.729 mmol, 100 mg | CC1=C(C(=O)O)C=CN=C1 | C7H7NO2
reactant | thionyl chloride | 2.188 mmol, 260 mg | S(=O)(Cl)Cl | Cl2OS
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
product | 3-methyl-isonicotinoyl chloride | CC1=C(C(=O)Cl)C=CN=C1 | C7H6ClNO
